US08563765B2
The fluorenone (4.0 g, 22.2 mmol) was stirred in an autoclave of 110° C. for three days in an ammonia atmosphere (7 to 8 atm). After the reaction, it was allowed to dissolve in diethyl ether. And, hydrogen chloride was blown into it. It was stirred for one hour at room temperature. The obtained suspension was filtered, and the filtrate was cleaned with the diethyl ether. With this, fluorenone imine hydrochloride (3.4 g, 71%) was obtained. This hydrochloride was allowed to decompose with an ammonia aqueous solution. And, it was recrystallized by using the methylene chloride and hexane. And, Fluoren-9-ylideneamine (2.3 g, 58%) was obtained.

reactant | fluorenone | 22.2 mmol, 4.0 g | C1(C=CC=C2C3=CC=CC=C3C=C12)=O | C13H8O
reactant | ammonia | N | H3N
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | fluorenone imine hydrochloride | 3.4 g, 71% | Cl.C1(C=CC=C2C3=CC=CC=C3C=C12)=N | InChI=1S/C13H9N.ClH/c14-13-7-3-6-11-10-5-2-1-4-9(10)8-12(11)13;/h1-8,14H;1H
